US05521184
1 g (5.68 mmol)of 3-dimethylamino-1-(2-pyridyl)-2-propen-1-one [EP-A-233 461] is dissolved in 8 ml of isopropanol, and 1.38 g (5.68 mmol) of 3-nitrophenylguanidine nitrate are added. After the addition of 0.25 g (6.24 mmol) of sodium hydroxide, the yellow suspension is heated at reflux for 20 hours, then cooled to 0°, filtered and washed with 30 ml of isopropanol. The filtration residue is stirred in 15 ml of ethanol for 20 minutes, filtered and washed with a small amount of cold ethanol, yielding N-(3-nitrophenyl)-4-(2-pyridyl)-2-pyrimidine-amine; m.p. 213°-219°.

reactant | 3-dimethylamino-1-(2-pyridyl)-2-propen-1-one | 5.68 mmol, 1 g | CN(C=CC(=O)C1=NC=CC=C1)C | C10H12N2O
reactant | 3-nitrophenylguanidine nitrate | 5.68 mmol, 1.38 g | [N+](=O)(O)[O-].[N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N
reactant | sodium hydroxide | 6.24 mmol, 0.25 g | [OH-].[Na+]
solvent | isopropanol | 8 ml | C(C)(C)O | C3H8O
product | N-(3-nitrophenyl)-4-(2-pyridyl)-2-pyrimidine-amine | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=NC=CC=C1 | C15H11N5O2
